### PR TITLE
[Merged by Bors] - feat(Analysis/Pow/Deriv): add some results about differentiability of cpow

### PR DESCRIPTION
**Pull request by xroblot**
* Add several results that exists for `rpow` but not for `cpow`:

- * `DifferentiableAt.cpow_const`, `DifferentiableWithinAt.cpow_const` and `DifferentiableOn.cpow_const` about the differentiability of `z ↦ (f z) ^ c`
- * `Complex.deriv_cpow_const` and `deriv_cpow_const` for computing `deriv`

* Add also an alternate version of `hasDerivAt_ofReal_cpow` on the differentiability of `fun y : ℝ => (y : ℂ) ^ c` and the corresponding `DifferentiableAt` and `deriv` results that follow.

* Add the equivalent for `fun y : ℝ => (y : ℂ) ^ c` of `isTheta_deriv_rpow_const_atTop` and `isBigO_deriv_rpow_const_atTop`

This PR doesn't add new maths since all the results proved are direct consequences of existing results.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by xroblot — COMMENTED** [review]
(deleted)

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 1]
```diff
@@ -248,6 +262,49 @@ theorem hasDerivAt_ofReal_cpow {x : ℝ} (hx : x ≠ 0) {r : ℂ} (hr : r ≠ -1
     · exact hasDerivAt_id ((-x : ℝ) : ℂ)
     · simp [hx]
 
+/-- An alternate statement of `hasDerivAt_ofReal_cpow`. -/
+theorem hasDerivAt_ofReal_cpow' {x : ℝ} (hx : x ≠ 0) {r : ℂ} (hr : r ≠ 0) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:266]: I think this one makes more sense as the unprimed lemma, but also I think they should be called `cpow_const`. So maybe rename (either here or in another PR) `hasDerivAt_ofReal_cpow` to `hasDerivAt_ofReal_cpow_const_div` and call this new lemma `hasDerivAt_ofReal_cpow_const`?

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 2]
```diff
@@ -248,6 +262,49 @@ theorem hasDerivAt_ofReal_cpow {x : ℝ} (hx : x ≠ 0) {r : ℂ} (hr : r ≠ -1
...
+    HasDerivAt (fun y : ℝ => (y : ℂ) ^ r) (r * x ^ (r - 1)) x := by
+  have := HasDerivAt.const_mul r <| hasDerivAt_ofReal_cpow hx (by rwa [ne_eq, sub_eq_neg_self])
+  simp_rw [sub_add_cancel, mul_div_cancel₀ _ hr] at this
+  exact this
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:270]: Maybe this could use `simpa` if you prefer

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 3]
```diff
@@ -248,6 +262,49 @@ theorem hasDerivAt_ofReal_cpow {x : ℝ} (hx : x ≠ 0) {r : ℂ} (hr : r ≠ -1
...
+
+/-- A version of `DifferentiableAt.cpow_const` for a real function. -/
+theorem DifferentiableAt.cpow_const' {f : ℝ → ℝ} {x : ℝ} (hf : DifferentiableAt ℝ f x)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:273]: Can we put `real` or `ofReal` (as appropriate) into these names instead of priming them?

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 4]
```diff
@@ -248,6 +262,49 @@ theorem hasDerivAt_ofReal_cpow {x : ℝ} (hx : x ≠ 0) {r : ℂ} (hr : r ≠ -1
...
+theorem Complex.deriv_cpow_const (hx : x ∈ Complex.slitPlane) :
+    deriv (fun (x : ℂ) ↦ x ^ c) x = c * x ^ (c - 1) :=
+  (hasStrictDerivAt_cpow_const hx).hasDerivAt.deriv
+
+/-- A version of `Complex.deriv_cpow_const` for a real variable. -/
+theorem Complex.deriv_cpow_const' {x : ℝ} (hx : x ≠ 0) (hc : c ≠ 0) :
+    deriv (fun x : ℝ ↦ (x : ℂ) ^ c) x = c * x ^ (c - 1) :=
+  (hasDerivAt_ofReal_cpow' hx hc).deriv
+
+theorem deriv_cpow_const (hf : DifferentiableAt ℂ f x) (hx : f x ∈ Complex.slitPlane) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:287]: I'm not sure about having `Complex.deriv_cpow_const` and `deriv_cpow_const` when they're both equally about `Complex`

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 5]
```diff
@@ -248,6 +262,49 @@ theorem hasDerivAt_ofReal_cpow {x : ℝ} (hx : x ≠ 0) {r : ℂ} (hr : r ≠ -1
...
+    deriv (fun (x : ℂ) ↦ f x ^ c) x = c * f x ^ (c - 1) * deriv f x :=
+  (hf.hasDerivAt.cpow_const hx).deriv
+
+theorem isTheta_deriv_cpow_const_atTop {c : ℂ} (hc : c ≠ 0) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:291]: Same about mentioning `real` here

**Review by Ruben-VandeVelde — COMMENTED** [review]
These all seem good to have, but I have questions about the ~~colour of the bikeshed~~ names

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean]: Yes, that's probably a better solution.

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:289]: I quite agree but I was trying to stick to the naming pattern of the `real` case : 

[Real.deriv_rpow_const](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Pow/Deriv.html#Real.deriv_rpow_const)

[deriv_rpow_const](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Pow/Deriv.html#deriv_rpow_const)

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean]: Ok, I named the new lemma `hasDerivAt_ofReal_cpow_const` and renamed the old version `hasDerivAt_ofReal_cpow_const'` with deprecation.

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:289]: In any case, thanks for the review!

**Comment by xroblot** [comment]
@Ruben-VandeVelde are you okay with the new names?

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
